US08895745B2
Step (g): 1-{3-[7-(4-Fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea hydrochloride salt
To a mixture of 1-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea (9.8 g) and methanol (100 mL) was added 4M hydrogen chloride/dioxane (10 mL). The solution was stirred at RT for 90 mins before concentrating under reduced pressure to give the title compound (11.1 g). 1H NMR (400 MHz, DMSO-d6) δ 9.47 (1H, s), 8.81 (1H, d), 8.41 (1H, s), 8.24 (1H, s), 8.03 (3H, dd), 7.95-7.82 (2H, m), 7.60-7.51 (2H, m), 7.50-7.39 (3H, m), 7.37-7.28 (1H, m), 7.14 (1H, t), 4.03-3.42 (7H, m), 3.17 (3H, s).

reactant | 1-{3-[7-(4-fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 9.8 g | FC1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C22H16F4N4O
reactant | hydrogen chloride dioxane | 4M, 10 mL | Cl.O1CCOCC1
solvent | methanol | 100 mL | CO | CH4O
product | 1-{3-[7-(4-Fluoro-phenyl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea hydrochloride salt | 11.1 g | Cl.FC1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | InChI=1S/C22H16F4N4O.ClH/c23-17-6-4-14(5-7-17)15-8-9-30-19(12-27-20(30)11-15)16-2-1-3-18(10-16)29-21(31)28-13-22(24,25)26;/h1-12H,13H2,(H2,28,29,31);1H
